US07615634B2
The same procedure as described in Example 20 was used, starting from [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(2-methoxy-phenyl)-methanone trifluoroacetic acid salt Example 11, and butyric acid (Aldrich), to give 1-[4-[4-amino-5-(2-methoxy-benzoyl)-pyrimidin-2-ylamino]-piperidin-1-yl]-butan-1-one. HRMS, observed: 398.2189; Calcd for (M+H)+: 398.2187.

reactant | [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(2-methoxy-phenyl)-methanone trifluoroacetic acid salt | FC(C(=O)O)(F)F.NC1=NC(=NC=C1C(=O)C1=C(C=CC=C1)OC)NC1CCNCC1
reactant | butyric acid | C(CCC)(=O)O | C4H8O2
product | 1-[4-[4-amino-5-(2-methoxy-benzoyl)-pyrimidin-2-ylamino]-piperidin-1-yl]-butan-1-one | NC1=NC(=NC=C1C(C1=C(C=CC=C1)OC)=O)NC1CCN(CC1)C(CCC)=O | C21H27N5O3
